US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(hydroxymethyl)phenyl)methanol
410 mg (S)-ethyl 4-(5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbonyl)benzoate are dissolved in 5 ml tetrahydrofurane and treated dropwise with 1.5 ml of a 1 M solution of lithiumaluminium hydride in tetrahydrofurane. The mixture is stirred for 8 hours at room temperature, cooled to 0° C. and the reaction is quenched by careful addition of 130 μl water and 130 μl of 4 M aqueous sodium hydroxide. After diluting with ethylacetate the mixture is dried with magnesium sulphate and filtered. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 100:0 to 60:40).

reactant | (S)-ethyl 4-(5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbonyl)benzoate | 410 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C(=O)C1=CC=C(C(=O)OCC)C=C1)C1=CCCC1 | C35H49NO4Si
reactant | lithiumaluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(hydroxymethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC=C(C=C1)CO)C1=CCCC1 | C33H49NO3Si
